US07470723B2
To a stirred solution of benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl) -methanol (2.23 g crude, 7.6 mmol) in CH2Cl2 (20 mL) at room temperature was added activated MnO2 powder (3.5 g, 40 mmol) and kept adding 23 equivalents of MnO2 every 35 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanone as an oil (1.78 g, 89% crude yield). The product was used in the next step without further purification.

reactant | benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl) -methanol | 7.6 mmol, 2.23 g | O1COC2=C1C=CC(=C2)C(O)C2=CC(=CC=C2)OC | C15H14O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 40 mmol, 3.5 g | O=[Mn]=O
catalyst | MnO2 | 23 equivalents | O=[Mn]=O
product | benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanone | O1COC2=C1C=CC(=C2)C(=O)C2=CC(=CC=C2)OC | C15H12O4
